US06921763B2
cis-Ethyl 4-(4-amino-3-{4-[(5,7-dimethyl-1,3-benzoxazol-2-yl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-cyclohexanecarboxylate (0.10 g, 0.19 mmol), aqueous sodium hydroxide (1 M, 2 mL, 2 mmol), and methanol (2 mL) were combined and heated under an air condenser at 70° C. for 14 h. The residue was acidified with aqueous hydrochloric acid (3 M, 2 mL, 6 mmol), and extracted with 10% methanol/dichloromethane (3×20 mL). The combined organic fractions were dried over magnesium sulfate, filtered, and concentrated. Purification of the product by preparative HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 20 min at 21 mL/min using an 8μ Hypersil HS C18, 250×21 mm column, Rt 8.8-10.9 min) afforded cis-4-(4-Amino-3-{4-[(5,7-dimethyl-1,3-benzoxazol-2-yl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-cyclohexanecarboxylic acid as a cream-colored powder (0.026 g, 0.052 mmol); RP-HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 10 min at 1 mL/min using a 5μ Hypersil HS C18, 250×4.6 mm column) Rt 9.03 min; MS (MH)+ 498.

reactant | cis-Ethyl 4-(4-amino-3-{4-[(5,7-dimethyl-1,3-benzoxazol-2-yl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-cyclohexanecarboxylate | 0.19 mmol, 0.10 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=C(C=C1C)C)[C@H]1CC[C@H](CC1)C(=O)OCC | C29H31N7O3
reactant | sodium hydroxide | 2 mmol, 1 M, 2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 6 mmol, 3 M, 2 mL | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | cis-4-(4-Amino-3-{4-[(5,7-dimethyl-1,3-benzoxazol-2-yl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-cyclohexanecarboxylic acid | 0.052 mmol, 0.026 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=C(C=C1C)C)[C@H]1CC[C@H](CC1)C(=O)O | C27H27N7O3
